US09085576B2
Step 1: Methyl 3-methylpyrazine-2-carboxylate
In a 2-L flask, 3-methylpyrazine-2-carboxylic acid (Matrix, 19.95 g, 144 mmol) was suspended in MeOH (500 mL). The suspension was cooled in an ice-water bath, and concentrated sulfuric acid (Fluka, 27.3 mL, 506 mmol) was added over a time period of 5 min. The reaction mixture was heated to 80° C. for 5 h. The reaction mixture was concentrated under reduced pressure and the residue was taken up in DCM (750 mL). The excess acid was neutralized carefully with of aqueous NaOH (5N or 5M, 200 mL). The aqueous layer was separated and extracted with DCM (250 mL). The combined organic layers were combined, dried over MgSO4 and concentrated to afford 16.15 g of the title compound (106 mmol, 73%). MS m/z=153 [M+H]+. Calculated for C7H8N2O2: 152.

reactant | 3-methylpyrazine-2-carboxylic acid | 144 mmol, 19.95 g | CC=1C(=NC=CN1)C(=O)O | C6H6N2O2
reactant | sulfuric acid | 506 mmol, 27.3 mL | S(O)(O)(=O)=O | H2O4S
reactant | MeOH | 500 mL | CO | CH4O
product | Methyl 3-methylpyrazine-2-carboxylate | 106 mmol, 16.15 g, 73% | CC=1C(=NC=CN1)C(=O)OC | C7H8N2O2
